US08008505B2
[rac]-2-(4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid
In analogy to the procedure described in example 7.2, [rac]-2-(4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester was treated with 1 N aqueous lithium hydroxide solution in THF and MeOH to give the title compound as red solid. MS: m/e=600.2 [M+H+].

reactant | [rac]-2-(4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)NC(C(C1CCCCC1)C=1N(N=C2C=C(C(=CC12)F)F)C1=CC=C(C=C1)Cl)=O)F)=O | C33H33ClF3N3O4
reactant | lithium hydroxide | 1 N | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [rac]-2-(4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-acetylamino}-3-fluoro-phenoxy)-2-methyl-propionic acid | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(C(=O)NC1=C(C=C(OC(C(=O)O)(C)C)C=C1)F)C1CCCCC1)F)F | C31H29ClF3N3O4
